US04034090
A solution of (1,3-dithiol-2-on-4-yl)-acetyl chloride (13.2 g.) in chloroform (110 cc.) is added to a solution of 7-amino-3-methyl-8-oxo-2-(2,2,2-trichloroethoxycarbonyl)-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene (23 g.) and triethylamine (9.5 cc.) in chloroform (300 cc.), maintained at -10° C., over the course of one hour. The reagents are left in contact for 24 hours at a temperature of between 0° and 10° C., and the chloroform is then driven off under reduced pressure (20 mm.Hg). The residue is taken up in ethyl acetate (one liter) and the solution is washed first with an 0.1 N hydrochloric acid solution (250 cc.), then with a saturated aqueous sodium bicarbonate solution (250 cc.) and finally twice with water (250 cc.). The organic phase is dried over magnesium sulphate, treated with decolourising charcoal and filtered. The filtrate is concentrated under reduced pressure (20 mm.Hg) to a volume of 100 cc. and then added to isopropyl ether (one liter). The product, 3-methyl-8-oxo-7-[(1,3-dithiol-2-on-4-yl)-acetamido]-2-(2,2,2-trichloroethoxycarbonyl)-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene (27 g.) precipitates and is filtered off. This product (17 g.) is dissolved in dimethylformamide (120 cc.) and acetic acid (35 cc.). The mixture is cooled in an ice bath, zinc powder (20.8 g.) is added and the mixture is stirred for 31/2 hours. The reaction mixture is then filtered; ethyl acetate (400 cc.) is added to the filtrate and the mixture is washed twice with water (a total of 400 cc.). The organic phase is extracted three times with a saturated sodium bicarbonate solution (200 cc.). The alkaline solution is acidified to pH 2.5 by adding 4 N hydrochloric acid in the presence of ethyl acetate (400 cc.). After decanting the organic phase, the aqueous phase is extracted twice with ethyl acetate (a total of 200 cc.); the organic extracts are combined, washed twice with water (a total of 200 cc.), dried over magnesium sulphate, treated with decolourising charcoal and filtered. The filtrate is concentrated to dryness under reduced pressure (20 mm.Hg). The residue obtained is recrystallised from a mixture of acetone and petroleum ether (100 cc.) to give 2-carboxy-3-methyl-8-oxo-7-[(1,3-dithiol-2-on-4-yl)-acetamido]-5-thia-1-aza-bicyclo[4.2.0]-oct-2-ene (3.5 g.).

reactant | (1,3-dithiol-2-on-4-yl)-acetyl chloride | 13.2 g | S1C(SC(=C1)CC(=O)Cl)=O | C5H3ClO2S2
reactant | 7-amino-3-methyl-8-oxo-2-(2,2,2-trichloroethoxycarbonyl)-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene | 23 g | NC1C2SCC(=C(N2C1=O)C(=O)OCC(Cl)(Cl)Cl)C | C10H11Cl3N2O3S
reactant | triethylamine | 9.5 cc | C(C)N(CC)CC | C6H15N
solvent | chloroform | 110 cc | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 300 cc | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | one liter | C(C)(=O)OCC | C4H8O2
product | 2-carboxy-3-methyl-8-oxo-7-[(1,3-dithiol-2-on-4-yl)-acetamido]-5-thia-1-aza-bicyclo[4.2.0]-oct-2-ene | 3.5 g | C(=O)(O)C=1N2C(C(C2SCC1C)NC(CC=1SC(SC1)=O)=O)=O | C13H12N2O5S3
